US06187802B1
A mixture of the crude 1-bromo-3-(3,4-dichlorophenyl)-3-methylbutan-2-one described above (3.1 g), imidazolidine-2-thione (1.2 g), ethanol (1.02 ml) and acetic acid (8 ml) was heated under reflux for 22 hours then allowed to cool to ambient temperature. The solvents were removed in vacuo and the residue was triturated with hot ethyl acetate (80 ml). The resulting solid was collected by filtration, washed with ethyl acetate (20 ml), dried in vacuo at 50° C., then crystallised from ethanol. The resulting product was collected by filtration, washed with ethanol (5 ml) and dried in vacuo at 50° C. to give 3-[1-(3,4-dichlorophenyl)-1-methylethyl]-5,6-dihydroimidazo[2,1-b]-thiazole hydrobromide as an off-white solid (0.95 g), m.p. 266-270° C. (decomposes).

reactant | 1-bromo-3-(3,4-dichlorophenyl)-3-methylbutan-2-one | BrCC(C(C)(C)C1=CC(=C(C=C1)Cl)Cl)=O | C11H11BrCl2O
reactant | imidazolidine-2-thione | 1.2 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 1.02 ml | C(C)O | C2H6O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 3-[1-(3,4-dichlorophenyl)-1-methylethyl]-5,6-dihydroimidazo[2,1-b]-thiazole hydrobromide | 0.95 g | Br.ClC=1C=C(C=CC1Cl)C(C)(C)C=1N2C(SC1)=NCC2 | InChI=1S/C14H14Cl2N2S.BrH/c1-14(2,9-3-4-10(15)11(16)7-9)12-8-19-13-17-5-6-18(12)13;/h3-4,7-8H,5-6H2,1-2H3;1H
